US08357374B2
Preparation of 4-[6-amino-8-hydroxy-2-(2-methoxyethoxy)purin-9-ylmethyl]benzoic Acid
4-[6-amino-8-methoxy-2-(2-methoxyethoxy)purin-9-ylmethyl]benzoate (100 mg) is combined with sodium iodide (63 mg) and acetonitrile (10 mL), and then chlorotrimethylsilane (120 mL) is slowly added. The mixture is heated at 70° C. for 6 hours, cooled and filtered. The solid product is washed with water, then ether to yield 51 mg.

reactant | 4-[6-amino-8-methoxy-2-(2-methoxyethoxy)purin-9-ylmethyl]benzoate | 100 mg | NC1=C2N=C(N(C2=NC(=N1)OCCOC)CC1=CC=C(C(=O)[O-])C=C1)OC
reactant | sodium iodide | 63 mg | [I-].[Na+]
reactant | chlorotrimethylsilane | 120 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-[6-amino-8-hydroxy-2-(2-methoxyethoxy)purin-9-ylmethyl]benzoic Acid | NC1=C2N=C(N(C2=NC(=N1)OCCOC)CC1=CC=C(C(=O)O)C=C1)O | C16H17N5O5
